US08492582B2
A trifluoroacetic acid (4.0 mL) solution of the obtained methyl 2-(2-acetoxy-5-(pyridin-3-yl)benzamido)-4-(2-((tert-butoxycarbonyl)(ethyl)amino)phenyl)benzoate was stirred at room temperature for 2 hours and 30 minutes. The solvent was evaporated under reduced pressure, and toluene was added thereto. The solvent was evaporated under reduced pressure, and diisopropyl ether was added to the obtained residue. The solid substance was collected by filtration. Dioxane (4.0 mL) and a 1 mol/L aqueous solution of sodium hydroxide (0.40 mL) were added to the obtained solid substance, followed by stirring at 50 to 55° C. for 2 hours. The reaction mixture was cooled to room temperature and then adjusted to a pH of 7.4 with 1 mol/L hydrochloric acid. The solvent was evaporated under reduced pressure, and water was added to the obtained residue. The solid substance was collected by filtration to obtain 0.032 g of 4-(2-(ethylamino)phenyl)-2-(2-hydroxy-5-(pyridin-3-yl)benzamido)benzoic acid as a white solid.

reactant | trifluoroacetic acid | 4.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 2-(2-acetoxy-5-(pyridin-3-yl)benzamido)-4-(2-((tert-butoxycarbonyl)(ethyl)amino)phenyl)benzoate | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=C(C=CC=C2)N(CC)C(=O)OC(C)(C)C)C=C(C=C1)C=1C=NC=CC1 | C35H35N3O7
product | 4-(2-(ethylamino)phenyl)-2-(2-hydroxy-5-(pyridin-3-yl)benzamido)benzoic acid | 0.032 g | C(C)NC1=C(C=CC=C1)C1=CC(=C(C(=O)O)C=C1)NC(C1=C(C=CC(=C1)C=1C=NC=CC1)O)=O | C27H23N3O4
